US06008229
To a solution of 1-[2,4-dichloro-3-[2-methyl-4-(pyrazol-1-yl)quinolin-8-yloxymethyl]phenyl]-2-formylpyrrole (23 mg) in methanol (0.5 ml) was added sodium borohydride (1.91 mg) udner ice-cooling, and the mixture was stirred for 2 hours. To the mixture was dropwise added aqueous solution of ammonium chloride under ice-cooling, and the mixture was stirred for 1 hour. The mixture was concentrated in vacuo, and ethyl acetate and water were added thereto. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol=20:1, V/V) to give 1-[2,4-dichloro-3-[2-methyl-4-(pyrazol-1-yl)quinolin-8-yloxymethyl]phenyl]-2-hydroxymethylpyrrole (11 mg) as amorphous powder.

reactant | 1-[2,4-dichloro-3-[2-methyl-4-(pyrazol-1-yl)quinolin-8-yloxymethyl]phenyl]-2-formylpyrrole | 23 mg | ClC1=C(C=CC(=C1COC=1C=CC=C2C(=CC(=NC12)C)N1N=CC=C1)Cl)N1C(=CC=C1)C=O | C25H18Cl2N4O2
reactant | sodium borohydride | 1.91 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 0.5 ml | CO | CH4O
product | 1-[2,4-dichloro-3-[2-methyl-4-(pyrazol-1-yl)quinolin-8-yloxymethyl]phenyl]-2-hydroxymethylpyrrole | 11 mg | ClC1=C(C=CC(=C1COC=1C=CC=C2C(=CC(=NC12)C)N1N=CC=C1)Cl)N1C(=CC=C1)CO | C25H20Cl2N4O2
